### PR TITLE
feat: `IGame → LGame` embedding

### PR DESCRIPTION
**Pull request by vihdzp**
We define this embedding and prove that it preserves negation, addition, and multiplication.

- [x] depends on: #168

### CODE REVIEW

File: CombinatorialGames/Game/Loopy/IGame.lean [hunk 1]
```diff
@@ -1,2 +1,142 @@
 import CombinatorialGames.Game.IGame
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/IGame.lean:7]:
```suggestion
/-
Copyright (c) 2025 Violeta Hernández Palacios. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Violeta Hernández Palacios
-/

import CombinatorialGames.Game.IGame
```

File: CombinatorialGames/Game/Loopy/IGame.lean [hunk 2]
```diff
@@ -1,2 +1,142 @@
...
+
+@[simp]
+theorem toLGame_one : toLGame 1 = 1 := by
+  ext <;> simp
+
+@[simp]
+theorem toLGame_neg (x : IGame) : toLGame (-x) = -toLGame x := by
+  ext y
+  on_goal 1 => simp_rw [leftMoves_toLGame, leftMoves_neg, LGame.leftMoves_neg, rightMoves_toLGame]
+  on_goal 2 => simp_rw [rightMoves_toLGame, rightMoves_neg, LGame.rightMoves_neg, leftMoves_toLGame]
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/IGame.lean]:
```suggestion
  on_goal 1 => rw [leftMoves_toLGame, leftMoves_neg, LGame.leftMoves_neg, rightMoves_toLGame]
  on_goal 2 => rw [rightMoves_toLGame, rightMoves_neg, LGame.rightMoves_neg, leftMoves_toLGame]
```

**Review by tristan-f-r — APPROVED** [review]

**Comment by vihdzp** [comment]
(I had accidentally merged #170 into this PR, I've fixed that!)

File: CombinatorialGames/Game/Loopy/IGame.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Loopy/IGame.lean:7]: (Did I accidentally create this file in a previous PR? So weird.)

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 3]
```diff
@@ -449,7 +449,7 @@ theorem leftMoves_neg (x : LGame) : (-x).leftMoves = -x.rightMoves := by
   exact leftMoves_corec ..
 
 @[simp]
-private theorem rightMoves_neg (x : LGame) : (-x).rightMoves = -x.leftMoves := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Basic.lean:452]: How did I even miss this? Silly me.
